NGSPICE Netlist for the Carry and Sum Logic of a 4-bit Carry Lookahead Adder

.include "TSMC_180nm.txt"
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param width_N = {20 * LAMBDA} ; Vary the width (1)
.param width_P = {2 * width_N} ; Assuming ratio of mobilites is 2, change it (2)
.global gnd vdd

.include "Subcircuits.cir"

Vdd vdd gnd 'SUPPLY'

VA3 A3 gnd 'SUPPLY'
VA2 A2 gnd 'SUPPLY'
VA1 A1 gnd 'SUPPLY'
VA0 A0 gnd 'SUPPLY'

VB3 B3 gnd 'SUPPLY'
VB2 B2 gnd 'SUPPLY'
VB1 B1 gnd 'SUPPLY'
VB0 B0 gnd 'SUPPLY'

VCin Cin gnd 'SUPPLY'

XCarry_Sum_Logic A3 A2 A1 A0 B3 B2 B1 B0 Cin Cout S3 S2 S1 S0 vdd gnd Carry_Sum_Logic

.tran 10p 10n

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3
set ybrushwidth = 3

let in_A3 = 'A3 + 26'
let in_A2 = 'A2 + 24'
let in_A1 = 'A1 + 22'
let in_A0 = 'A0 + 20'

let in_B3 = 'B3 + 18'
let in_B2 = 'B2 + 16'
let in_B1 = 'B1 + 14'
let in_B0 = 'B0 + 12'

let in_Cin = 'Cin + 10'

let out_Cout = 'Cout + 8'
let out_S3 = 'S3 + 6'
let out_S2 = 'S2 + 4'
let out_S1 = 'S1 + 2'
let out_S0 = 'S0'

plot in_A3 in_A2 in_A1 in_A0 in_B3 in_B2 in_B1 in_B0 in_Cin out_Cout out_S3 out_S2 out_S1 out_S0

.endc

.end